Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rib fractures
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
Mr. ___ is a ___ man with PMH of polysubstance 
abuse, hepatitis C (untreated), who presents as a transfer from 
___ for further evaluation after sustaining multiple rib 
fractures following CPR performed after an opioid overdose. 

The patient is currently an incarcerated inmate, recently 
arrested and sent back to prison 5 months after completing a ___ 
year sentence. He was found to be down in his cell after he had 
snorted a line of fentanyl. He was down for unknown period.  CPR 
was initiated and given for approximately 10 minutes before he 
was given intranasal narcan during the event and reportedly 
regained consciousness. It is not clear if he ever actually loss 
a pulse, although patient has no memory of being down or being 
awake while receiving CPR. He was initially brought to 
___ sometime prior to 11pm per the limited OSH records. 
He underwent a chest CT that demonstrated bilateral rib 
fractures, [R 2, 3(displaced); L 3,4,5,6(displaced)], trace 
pericardial effusion, and evidence of aspiration. Given the 
extent of his injuries, he was sent to ___ for trauma surgery 
evaluation. During the transport the patient became increasingly 
hypoxemic, and was placed back on a non-rebreather prior to 
arrival. 
 

In the ED, initial vitals:  T 97.3, HR 86 BP 130/86 RR 16, 97% 
on NRB
Trauma exam notable for:  CTA ___ with moderate to full 
inspiratory effort but diminished at bases; pain with palpation 
along anterior chest wall, chest is stable. 

- Labs notable for:
  - WBC 14.6, Hg 13.3, plt 247
  - Na 138, K 4.7, bicarb 26, Cr 1.0
  - vbg not obtained
  - utox not obtained  

- Imaging notable for: 
  - CXR: Hypoinflated lungs with retrocardiac opacities, likely
         atelectasis.
  - CT at ___: (refer to paper chart for report) 
   
- Pt given: Gabapentin 600mg; oxycodone 5mg; acetaminophen 1000 
mg. 
 
- Trauma Surgery was consulted and recommended: 
  - "admission to medicine post-arrest for pain control, 
pulmonary  
    toilet, and oxygen wean and social work consult for
    polysubstance use. No indication for trauma surgery 
admission."

- Vitals prior to transfer: T97.8, HR 98, BP 133/95, RR 17, 98% 
on 4L.
 
Upon arrival to the floor, the patient reports that in the 5 
months that he was out of prison he had 5 OD's requiring Narcan. 
He states that he desires to stop using.  
 

 
Past Medical History:
- hepatitis C
- polysubstance abuse (including heroin)  
- ETOH abuse (prior to arrest, 5 pints of vodka a day)
- tobacco abuse
 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS:  98.2PO 136 / 92 80 16 95 5L 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
Face assymetric but not different from prior baseline (admitted 
to prior episodes of facial trauma) neck supple, JVP not 
elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, but shallow breaths 
due to pain. no wheezes, rales, rhonchi  
Chest wall: No deformity, but exquisitely tender.
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally.

DISCHARGE EXAM:
===============
VITALS: Temp: 98.4 (Tm 98.4), BP: 119/78 (116-142/78-91), HR: 89
(73-89), RR: 18 (___), O2 sat: 93% (92-95), O2 delivery: 3L  
General: Appears uncomfortable though more alert and cooperative
with exam compared to yesterday.
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
Face assymetric but not different from prior baseline (admitted
to prior episodes of facial trauma) neck supple
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally on anterior exam, but
shallow breaths due to pain. No wheezes, rales, rhonchi. Unable
to examined posterior lung fields due to pain.
Chest wall: No obvious deformity, no ecchymosis. Exquisitely
tender to light palpation.
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:40AM   GLUCOSE-95 UREA N-24* CREAT-1.0 SODIUM-138 
POTASSIUM-4.7 CHLORIDE-96 TOTAL CO2-26 ANION GAP-16
___ 11:40AM   estGFR-Using this
___ 11:40AM   WBC-14.6* RBC-4.63 HGB-13.3* HCT-41.2 MCV-89 
MCH-28.7 MCHC-32.3 RDW-14.6 RDWSD-46.3
___ 11:40AM   NEUTS-87.7* LYMPHS-6.8* MONOS-5.0 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-12.84* AbsLymp-0.99* AbsMono-0.73 
AbsEos-0.00* AbsBaso-0.03
___ 11:40AM   PLT COUNT-247

INTERVAL LABS:
==============
___ 11:49PM BLOOD Glucose-82 UreaN-23* Creat-1.4* Na-140 
K-3.8 Cl-102 HCO3-30 AnGap-8*
___ 06:12AM BLOOD ALT-50* AST-33 LD(LDH)-347* AlkPhos-52 
TotBili-0.3
___ 06:12AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 07:55AM BLOOD Hapto-155
___ 06:12AM BLOOD HIV Ab-NEG
___ 06:12AM BLOOD HCV Ab-POS*
___ 12:26AM BLOOD ___ pO2-47* pCO2-62* pH-7.31* 
calTCO2-33* Base XS-2
___ 06:12AM BLOOD HIV Ab-NEG

DISCHARGE LABS:
===============
___ 05:37AM BLOOD WBC-6.3 RBC-4.23* Hgb-11.9* Hct-38.1* 
MCV-90 MCH-28.1 MCHC-31.2* RDW-14.3 RDWSD-47.1* Plt ___
___ 05:37AM BLOOD Glucose-111* UreaN-12 Creat-1.2 Na-140 
K-4.2 Cl-100 HCO3-30 AnGap-10
___ 05:37AM BLOOD Calcium-8.7 Phos-3.6 Mg-2.1

IMAGING:
========

CXR ___

EXAMINATION:  Chest radiograph 
  
INDICATION:  History: ___ with desat// assess for ptx 
  
TECHNIQUE:  Chest PA and lateral 
  
COMPARISON:  None. 
  
FINDINGS:  
  
Lung volumes appear low.  Mild retrocardiac opacities likely 
represent 
atelectasis.  There is no pulmonary edema, pneumothorax, or 
pleural effusion.  The cardiomediastinal silhouette is 
accentuated by low lung volumes but likely normal. 
  
IMPRESSION:  
  
Hypoinflated lungs with retrocardiac opacities, likely 
atelectasis. 

CXR ___

TECHNIQUE:  AP portable chest radiograph 
  
COMPARISON:  ___ 
  
FINDINGS:  
  
There are low bilateral lung volumes.  Increased opacities at 
the left lung base may reflect atelectasis or pneumonia.  None 
linear atelectasis is also present in the right midlung.  There 
is no pleural effusion or pneumothorax identified.  The size of 
the cardiac silhouette is enlarged but may be magnified 
secondary to the low lung volumes. 
  
IMPRESSION:  
  
Increased retrocardiac opacities may reflect atelectasis however 
given the 
provided clinical history, aspiration/pneumonia cannot entirely 
be excluded. 
  
 
Brief Hospital Course:
PATIENT SUMMARY:
================ 
___ with PMH of polysubstance abuse, hepatitis C (unknown 
treatment status), who presented as a transfer from ___ 
for further evaluation after sustaining multiple rib fractures 
following CPR performed after an opioid overdose. 

ACUTE PROBLEMS: 
===============
# Acute Respiratory Failure
# Bilateral rib fractures
# Pain control
Patient found to be down in his cell after he had snorted a line 
of fentanyl. He was down for unknown period. CPR
was initiated and given for approximately 10 minutes before he 
was given intranasal narcan during the event and reportedly 
regained consciousness. It is not clear if he ever actually loss 
a pulse, although patient has no memory of being down or being 
awake while receiving CPR. He was initially brought to 
___ sometime prior to 11pm per the limited OSH records. 
He underwent a chest CT that demonstrated bilateral rib 
fractures, [R 2,3(displaced); L 3,4,5,6(displaced)], trace 
pericardial effusion, and evidence of aspiration. Given the 
extent of his injuries, he was sent to ___ for trauma surgery 
evaluation. Likely hypercarbic respiratory failure due to poor 
ventilation with splinting from rib fractures. No evidence of 
flail chest. No evidence of pulmonary contusion or pneumothorax 
or cardiomegaly suggesting traumatic pericardial effusion on 
repeat CXR. Patient with normal to increased RR and do not 
suspect lingering overdose. Retrocardiac opacities on CXR likely 
represents atelectasis, in setting of decreased tidal volumes 
from pain. The patient's respiratory status gradually improved 
and he was weaned off of supplemental oxygen. Encouraged 
incentive spirometry. Pain controlled with reduced dose 
gabapentin (due to sedation, as per below), lidocaine patch, and 
standing Tylenol. The patient was also initially on PRN 
oxycodone which was changed to PRN tramadol based on sedation. 

# Somnolence
Patient intermittently somnolent during this hospitalization. 
Unclear etiology. Likely related to high dose Seroquel, 
diazepam, and high dose gabapentin. Cannot exclude intra-axial 
etiologies, particularly after having been found down. . 
Hypercarbia another possibility given small tidal volumes ___ 
chest pain. VBG obtained prior to admission was overall 
reassuring with PCO2 of 48 (compared to 62 on admission). 
Sedating medications were downtitrated as per above. 

# Small pericardial effusion
Noted on CT Chest at OSH. There was concern for tamponade at 
this given episodic hypotension but bedside echocardiogram 
showed only a trivial anterior effusion with no evidence of 
hemodynamic compromise. BPs improved by the time of discharge. 

# Risk for EtOH withdrawal
Recent heavy drinking history was being treated with librium at 
prison for withdrawal for unclear duration. High risk
for withdrawal. Maintained initially on CIWA protocol with 
Diazepam. This was then discontinued due to somnolence. 

# Opioid Use Disorder
Unclear what resources are available to the patient in prison. 
Social work was consulted.

# ___
Creatinine peaked at 1.4 then improved to 1.2 at the time of 
discharge. Likely pre-renal in the setting of poor PO intake. 

CHRONIC/STABLE PROBLEMS: 
========================
# Tobacco use
Offered patient nicotine patch. 

# History of Hepatitis C 
Unclear if cleared or previously treated. HCV Ab positive. HCV 
viral load pending at time of discharge. HIV screen negative. 

TRANSITIONAL ISSUES:
====================
# Patient with untreated hepatitis C. This should be followed up 
by a hepatologist in the outpatient setting.

# Patient's gabapentin dose was decreased with the plan to 
ultimately discontinue this medication entirely. Not clear why 
he is on this as an outpatient.

# The patient's quetiapine dose was also decreased during this 
hospitalization given concern for over-sedation.

# New medications: 
- Acetaminophen 1000 mg PO Q8H 
- Lidocaine 5% Patch 1 PTCH TD QPM 
- TraMADol 50 mg PO Q4H:PRN Pain - Severe Duration: 1 Week 

# Changed medications:
- QUEtiapine Fumarate 400 mg PO QHS from 800 mg QHS
- Gabapentin 600 mg PO TID Duration: 2 Weeks THEN
- Gabapentin 300 mg PO TID Duration: 2 Weeks THEN STOP

# Held medications:
- None

# CODE STATUS: Full (presumed)
# CONTACT: UNKNOWN (in jail)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 800 mg PO QHS 
2. Gabapentin 1200 mg PO TID 
3. Venlafaxine 150 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Gabapentin 300 mg PO TID Duration: 2 Weeks 
Start after completing 2 weeks at 600 mg TID  
3.  Lidocaine 5% Patch 1 PTCH TD QPM  
4.  TraMADol 50 mg PO Q4H:PRN Pain - Severe Duration: 1 Week  
5.  Gabapentin 600 mg PO TID Duration: 2 Weeks  
6.  QUEtiapine Fumarate 400 mg PO QHS  
7.  Venlafaxine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
========
Multiple rib fractures
Opioid overdose

SECONDARY:
==========
HCV
Polysubstance use disorder
EtOH use disorder
Tobacco use disorder

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

It was a pleasure taking care of you at ___ 
___.

You were admitted to the hospital because of multiple fractures 
to your ribs. You had CPR performed which caused your ribs to 
break. 

In the hospital, we monitored you closely and controlled your 
pain with medications. We made sure that your heart was not 
affected. Because you were a bit sleepy at times, we decreased 
your dose of some of your home medications.

After leaving the hospital, you should take your medications 
only as prescribed below and follow up with a doctor when able.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___